US04714774
To a solution of 3-dimethylaminopropyl 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-3-fluorobenzoate (124 mg) in dichloromethane (1 ml), triethylamine (0.5 ml) and 4-dimethylaminopyridine (a catalytic amount) was added acetic anhydride (0.38 ml). The mixture was stirred well for 1.5 hours at room temperature. To the reaction mixture was added methanol (2 ml), and the solvents removed by evaporation under reduced pressure. The residue was dissolved in chloroform, the solution was washed with a solution of saturated sodium hydrogen carbonate and dried with sodium sulfate, and the solvent was removed by evaporation. The residue was dissolved in ether, and to the solution was added a saturated solution of oxalic acid in ether until a precipitate did not emerge any more. The precipitate was recovered by filtration and washed with ether to give a white solid of 3-dimethylaminopropyl 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-fluorobenzoate.mono-oxalate (180 mg). M.p. 166°-167° C.

reactant | 3-dimethylaminopropyl 4-[3-(4-acetyl-3-hydroxy-2-propylphenoxy)propoxy]-3-fluorobenzoate | 124 mg | C(C)(=O)C1=C(C(=C(OCCCOC2=C(C=C(C(=O)OCCCN(C)C)C=C2)F)C=C1)CCC)O | C26H34FNO6
reactant | acetic anhydride | 0.38 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | methanol | 2 ml | CO | CH4O
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-dimethylaminopropyl 4-[3-(3-acetoxy-4-acetyl-2-propylphenoxy)propoxy]-3-fluorobenzoate | C(C)(=O)OC=1C(=C(OCCCOC2=C(C=C(C(=O)OCCCN(C)C)C=C2)F)C=CC1C(C)=O)CCC | C28H36FNO7
